US07732460B2
(c) 4-(2-Hydroxyethyl)-1,2-dihydro-3,6-pyridazinedione
A suspension of methyl (3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)acetate (11.1 g, 60.3 mmol) in THF (2 litres) was sonicated to give a fine dispersion. The mixture was called to −15° C. and treated dropwise with a solution of lithium aluminium hydride in THF (1M; 90 ml, 90 mmol). The mixture was stirred at 0° C. for 2 hours. Sodium hydroxide (2M; 15 ml, 30 mmol) was added, then the mixture was acidified with 5M hydrochloric acid to around pH4-5. The supernatant was decanted off and discarded. The oily residue was extracted with water/methanol (500 ml/1 litre). This extract was decanted from the remaining residue, treated with silica and evaporated. The silica residue was added to the top of a column, eluting with 10-30% methanol in DCM affording a pale yellow oil (2.7 g).

reactant | methyl (3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)acetate | 60.3 mmol, 11.1 g | O=C1NNC(C=C1CC(=O)OC)=O | C7H8N2O4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium hydroxide | 30 mmol, 2M, 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | THF | 2 litres | C1CCOC1 | C4H8O
solvent | THF | 90 mmol, 1M, 90 ml | C1CCOC1 | C4H8O
product | 4-(2-Hydroxyethyl)-1,2-dihydro-3,6-pyridazinedione | OCCC=1C(NNC(C1)=O)=O | C6H8N2O3
